US04822787
A mixture of (2S,4R)-4-t-butyldimethylsilyloxy-1-t-butoxycarbonyl-2-(hydroxymethyl)pyrrolidine (0.62 g), 2-bromoacetic acid (0.26 g), 85% potassium hydroxide (0.37 g), and potassium iodide (0.93 g) in t-butyl alcohol (12 ml) was heated at 50° C. for 3 hours. The mixture was poured into water (100 ml), adjusted to pH 4 with 1N hydrochloric acid and saturated with sodium chloride. The aqueous mixture was extracted with three 50 ml portions of ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (30 g ) eluting with a mixture of methanol and dichloromethane (1:9 V/V) to give (2S,4R)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxy-2-(carboxymethyloxymethyl)pyrrolidine (0.57 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-1-t-butoxycarbonyl-2-(hydroxymethyl)pyrrolidine | 0.62 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C16H33NO4Si
reactant | 2-bromoacetic acid | 0.26 g | BrCC(=O)O | C2H3BrO2
reactant | potassium hydroxide | 0.37 g | [OH-].[K+]
reactant | potassium iodide | 0.93 g | [I-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | t-butyl alcohol | 12 ml | C(C)(C)(C)O | C4H10O
solvent | water | 100 ml | O | H2O
product | (2S,4R)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxy-2-(carboxymethyloxymethyl)pyrrolidine | 0.57 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COCC(=O)O | C18H35NO6Si
